US08735440B2
Step 1. Synthesis of 3-bromo-6-methoxy-9H-carbazole
3-Methoxy-9H-carbazole (Bedford, R. B.; Betham, M. J. Org. Chem. 2006, 71, 9403-9410) (0.029 g, 0.147 mmol) was dissolved in dry DMF (0.28 mL) and NBS (0.026 g, 0.147 mmol) was added to the solution. The reaction mixture was stirred at room temperature for 2 h under absence of light. The solution was poured into water (2 mL), filtered and washed with water. The title compound was isolated as a grey solid (0.033 g, 82%).

reactant | 3-Methoxy-9H-carbazole | 0.147 mmol, 0.029 g | COC=1C=CC=2NC3=CC=CC=C3C2C1 | C13H11NO
reactant | NBS | 0.147 mmol, 0.026 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 2 mL | O | H2O
solvent | DMF | 0.28 mL | CN(C)C=O | C3H7NO
product | 3-bromo-6-methoxy-9H-carbazole | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)OC | C13H10BrNO
